US06864390B2
Oxalyl chloride (4.14 mL, 47 mmol) was added dropwise to a stirring solution of ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid (10 g, 43 mmol) in dichloromethane under argon at room temperature. The reaction mixture was cooled to 5° C., dimethylformamide (1 mL) was carefully added, and the mixture was allowed to warm to room temperature and stirred for a further 2 hours. The solvent was removed in vacuo and the residue diluted with dichloromethane (60 mL). 1,1-Dimethylethanol (15 mL) was carefully added to the reaction mixture under argon followed by diisopropylethylamine (11.5 mL, 65 mmol). The mixture was stirred for 17 hours and then taken up in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate (2×200 mL), and dried (MgSO4). The solvent was removed under reduced pressure, and the residue was purified by chromatography (silica gel, eluting with a gradient of heptane to 9:1 heptane:ethyl acetate) to give 10.92 g (88%) of ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid tert-butyl ester;

reactant | Oxalyl chloride | 47 mmol, 4.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid | 43 mmol, 10 g | C(C1=CC=CC=C1)[C@]1(C[C@@H](CC1)C)CC(=O)O | C15H20O2
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | diisopropylethylamine | 65 mmol, 11.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid tert-butyl ester | 10.92 g, 88% | C(C)(C)(C)OC(C[C@@]1(C[C@@H](CC1)C)CC1=CC=CC=C1)=O | C19H28O2
